US03971799
Collins et al., J. Chem. Soc., (c); pages 167-174 (1971) teach that halogens ortho and para to the ring nitrogen in pentachloropyridine are reactive with hydrazine hydrate. This reference further teaches the formation of tetrahalo-4-hydroxy pyridine from the action of aqueous sodium hydroxide on tetrahalo-4-hydrazino pyridines. From this same starting material, 2,3,6-trichloropyridine is formed from the reaction with cuprous oxide in hot water.

reactant | hydrazine hydrate | O.NN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | pentachloropyridine | ClC1=C(C(=C(C(=N1)Cl)Cl)Cl)Cl | C5Cl5N
solvent | water | O | H2O
product | 2,3,6-trichloropyridine | ClC1=NC(=CC=C1Cl)Cl | C5H2Cl3N
